Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
penicillin G / hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female presenting with ___ days of abdominal pain (sharp in 
nature) mostly on her left abdomen who reports a 2 day hx of 
blood in her stool beginning ___ evening after eating. She 
presented to her PCP yesterday with this complaint and was sent 
for a CT scan revealing distal transverse and proximal 
descending colitis. She reports that over the last two days, her 
bloody bowel movements have continued. She reports that 
initially they seemed to just have blood, but now, she reports 
she has had normal caliber stool with some blood intermixed. She 
reports some nausea. No emesis. After her PCP appointment, she 
stopped taking ASA per MD orders. She endorses decreased 
appetite and nausea. She denies any acute illness prior to the 
abdominal pain and blood in stool. She also denies any hx of 
palpitations or
arrhythmias. Last colonoscopy was ___ years ago.

Of note, patient is a poor historian. She is accompanied by her 
grandson who provides additional history.
 
Past Medical History:
PMH: 
PREDIABETES                                                     
Previously on metformin; A1C 5.6% off of metformin as of ___ 
HYPERTENSION                                                    
GLAUCOMA                                                        
Followed at ___ optho                                           
ARTHRITIS                                                       
SCIATICA                                                        
Right   
LOW BACK PAIN
?DVT 
 
Social History:
___
Family History:
Relative Status   Age Problem                 
Mother   ___ ___                                            
Father   ___     OLD AGE                                   
Comments: NO known MI or COLON cancer.        
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

Vitals: T 98.5  HR 72  BP 132/64  RR 18  SpO2 98% RA

General: awake, alert, no acute distress
HEENT: trachea midline
CV: regular rate and rhythm
Pulm: CTAB
GI: abdomen soft, non-distended, non-tender
Extremities: warm and well perfused
 
Pertinent Results:
ADMISSION LABS:

___ 07:55PM   WBC-8.2 RBC-4.57 HGB-10.6* HCT-35.8 MCV-78* 
MCH-23.2* MCHC-29.6* RDW-16.8* RDWSD-47.2*
___ 07:55PM   NEUTS-75.0* LYMPHS-15.7* MONOS-8.2 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-6.13* AbsLymp-1.28 AbsMono-0.67 
AbsEos-0.04 AbsBaso-0.02
___ 07:55PM   ___ PTT-26.2 ___
___ 08:04PM   LACTATE-2.4*
___ 07:55PM   GLUCOSE-128* UREA N-10 CREAT-1.0 SODIUM-145 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-26 ANION GAP-14
___ 07:55PM   ALT(SGPT)-11 AST(SGOT)-21 ALK PHOS-75 TOT 
BILI-0.4

IMAGING:

CT abdomen/pelvis ___:
IMPRESSION:
1. Severe colitis involving the distal transverse and proximal 
descending colon.
2. Small bowel lateral to the cecum and ascending colon, 
suggesting the
presence of partial malrotation.

CT chest ___:
IMPRESSION: 2 calcified granulomas.  No evidence of pneumonia

TTE ___:
IMPRESSION: Normal left ventricular wall thickness, cavity size, 
and regional/global systolic
function. Mild right ventricular cavity dilation with normal 
systolic function (may be UNDERestimated
given severity of tricuspid regurgitation). Severe tricuspid 
regurgitation in the setting of failure of
leaflets to fully coapt. Mild mitral regurgitation. At least 
mild pulmonary systolic hypertension.

CT abdomen/pelvis ___:
IMPRESSION:
1. Interval improvement colitis of the splenic flexure.  The 
distribution of findings is compatible with ischemic colitis.
2. No large arterial splanchnic branch occlusion.  This does not 
exclude an ischemic episode from low flow state.
 
Brief Hospital Course:
Ms. ___ is an ___ year old female who presented to ___ 
___ on ___ with abdominal pain 
and bloody stools. Her imaging demonstrated colitis of the 
splenic flexure, concerning for possible ischemic etiology. She 
was admitted to the Acute Care Surgery service for bowel rest, 
IV fluid resuscitation, and serial abdominal exams. She 
underwent an echocardiogram which showed no evidence of cardiac 
thrombotic source for mesenteric ischemia. On ___, she underwent 
a CTA of the abdomen and pelvis which demonstrated patent 
mesenteric vessels and interval improvement in her colitis. Her 
abdominal pain had resolved at this point, so she was given a PO 
challenge and advanced to a regular diet as tolerated. 

On ___, the patient was tolerating a regular diet, voiding 
spontaneously without issue, and her abdominal pain had 
resolved. She had had no bloody bowel movements. She was deemed 
ready for discharge to home with PCP follow up. ___ was told to 
follow up in surgery clinic as needed. 

 
Medications on Admission:
Medications - Prescription
BRIMONIDINE - brimonidine 0.2 % eye drops. 1 drop ophthalmic
three times a day -  (Prescribed by Other Provider)
DORZOLAMIDE-TIMOLOL - dorzolamide 22.3 mg-timolol 6.8 mg/mL eye
drops. 1 drop opthalmic three times a day -  (Prescribed by 
Other
Provider)
LOSARTAN [COZAAR] - Cozaar 50 mg tablet. 1 tablet(s) by mouth
daily
NIFEDIPINE - nifedipine ER 30 mg tablet,extended release 24 hr.
TAKE 1 TABLET BY MOUTH DAILY
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1
CAPSULE BY MOUTH DAILY
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. ___ tablet(s) by
mouth three times a day as needed for pain
ASPIRIN - aspirin 81 mg chewable tablet. 1 tablet(s) by mouth
daily
BLOOD SUGAR DIAGNOSTIC [ONETOUCH ULTRA TEST] - OneTouch Ultra
Test strips. use to test blood glucose daily
LANCETS - lancets 33 gauge. use to test blood glucose daily
 
Discharge Medications:
Medications - Prescription
BRIMONIDINE - brimonidine 0.2 % eye drops. 1 drop ophthalmic
three times a day -  (Prescribed by Other Provider)
DORZOLAMIDE-TIMOLOL - dorzolamide 22.3 mg-timolol 6.8 mg/mL eye
drops. 1 drop opthalmic three times a day -  (Prescribed by 
Other
Provider)
LOSARTAN [COZAAR] - Cozaar 50 mg tablet. 1 tablet(s) by mouth
daily
NIFEDIPINE - nifedipine ER 30 mg tablet,extended release 24 hr.
TAKE 1 TABLET BY MOUTH DAILY
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. TAKE 1
CAPSULE BY MOUTH DAILY
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. ___ tablet(s) by
mouth three times a day as needed for pain
ASPIRIN - aspirin 81 mg chewable tablet. 1 tablet(s) by mouth
daily
BLOOD SUGAR DIAGNOSTIC [ONETOUCH ULTRA TEST] - OneTouch Ultra
Test strips. use to test blood glucose daily
LANCETS - lancets 33 gauge. use to test blood glucose daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic colitis of the splenic flexure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ on 
___ with abdominal pain and inflammation of the bowel. You 
are recovering well and are now ready for discharge. Please 
follow the instructions below to continue your recovery:

ACTIVITY: 
 o You may resume normal activity as tolerated.
 o You may climb stairs.  
 o  You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 
 o You may start some light exercise when you feel comfortable. 
   
HOW YOU MAY FEEL:  
 o  You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you. 
 o  You could have a poor appetite for a while. Food may seem 
unappealing. 
 o  All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon. 
   
YOUR BOWELS: 
 o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription. 
 o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  
   
PAIN MANAGEMENT: 
 o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 

 o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed. 
 o Your pain medicine will work better if you take it before 
your pain gets too severe. 
 o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay. 
 o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine. 
 o Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.

If you experience any of the following, please contact your 
surgeon: 
 - sharp pain or any severe pain that lasts several hours 
 - pain that is getting worse over time 
 - pain accompanied by fever of more than 101 
 - a drastic change in nature or quality of your pain 
   
MEDICATIONS: 
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently. 
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.

 
Followup Instructions:
___